US07034039B2
To a solution of (E)-3-[4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide (0.24 g, 0.5 mmol) in ethyl acetate (5 mL) was added a solution of 4N hydrogen chloride in ethyl acetate (5 mL) and the obtained solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diethyl ether to give (E)-3-[3-(aminomethyl)-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride (0.19 g, 90.5%) as crystals.

reactant | (E)-3-[4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide | 0.5 mmol, 0.24 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)/C=C/C(=O)N)=O)CC(C)(C)C)CNC(=O)OC(C)(C)C | C27H39N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (E)-3-[3-(aminomethyl)-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride | 0.19 g, 90.5% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)/C=C/C(=O)N)=O)CC(C)(C)C | InChI=1S/C22H31N3O3.ClH/c1-5-6-11-28-20-17-12-15(8-10-19(24)26)7-9-16(17)21(27)25(18(20)13-23)14-22(2,3)4;/h7-10,12H,5-6,11,13-14,23H2,1-4H3,(H2,24,26);1H/b10-8+;
